US06534488B1
A solution of benzylchloroformate (9.4 g, 5.5 mmol) in acetone (15 ml) was added dropwise to a mixture of 4-aminobutanoic acid (5.2 g, 5 mmol), sodium bicarbonate (8.6 g, 10 mmol), water (25 ml) and acetone (25 ml) causing vigorous effervescence. The solution was allowed to stir overnight. The acetone was removed using a rotary evaporator to leave an aqueous phase which was washed with ether (2×25 ml). The resulting aqueous layer was acidified to pH2 with dilute hydrochloric acid and then extracted with dichloromethane (3×50 ml). The dichloromethane extracts were combined, dried over magnesium sulphate and volatile components removed under reduced pressure to leave 4-[(benzyloxycarbonyl)amino]butanoic acid as a white solid in a good state of purity. This material was used without further purification.

reactant | benzylchloroformate | 5.5 mmol, 9.4 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | 4-aminobutanoic acid | 5 mmol, 5.2 g | NCCCC(=O)O | C4H9NO2
reactant | sodium bicarbonate | 10 mmol, 8.6 g | C([O-])(O)=O.[Na+]
reactant | water | 25 ml | O | H2O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 4-[(benzyloxycarbonyl)amino]butanoic acid | C(C1=CC=CC=C1)OC(=O)NCCCC(=O)O | C12H15NO4
